US06340752B1
[S-(R*,R*)]-Hexahydro-6-[(2-mercapto-1-oxo-3-phenylpropyl) amino]-2,2-dimethyl-7-oxo-1H-azepine-1-acetic acid
A three necked flask was charged with [S-(R*,R*) ]-6-[[2-(acetylthio)-1-oxo-3-phenylpropyl]amino]hexahydro-2,2-dimethyl-7-oxo-1H-azepine-1-acetic acid (10 g, 23.78 mmoles) and D,L-dithiothreitol (390 mg, 2.5 mmoles). The flask was flushed with nitrogen. Deoxygenated water (20 ml) was added to the flask and the mixture was cooled to 1° C. Cold (1° C.) deoxygenated sodium hydroxide solution (1.22 N, total 70 ml, 84 mmoles) was added slowly while maintaining the temperature of the reaction mixture between 1° C. and 4° C. After addition of the initial 10 v/v% of the sodium hydroxide solution, the remainder of the solution was added, maintaining the reaction temperature between −2° to 30° C. After stirring the reaction mixture at −2° to 6° C. for 30 minutes, the reaction mixture was allowed to warm to room temperature. The reaction mixture was polish filtered into a crystallization flask and heated to 45° C. Deoxygenated acetic acid solution (1.06 N, 90 ml, 95 mmoles) was added while maintaining the reaction temperature between 41° and 46° C. The crystal slurry was stirred at 41° to 46° C. for 20 minutes and then allowed to cool to room temperature. After stirring at room temperature for 30 minutes, the product was filtered and washed with water (100 ml) and dried in a vacuum oven at 51° C./4.1 inch Hg to afford 8.45 g of title product having laboratory HPLC of 99.75 area percent.

reactant | 6-[[2-(acetylthio)-1-oxo-3-phenylpropyl]amino]hexahydro-2,2-dimethyl-7-oxo-1H-azepine-1-acetic acid | 23.78 mmoles, 10 g | C(C)(=O)SC(C(=O)NC1CCCC(N(C1=O)CC(=O)O)(C)C)CC1=CC=CC=C1 | C21H28N2O5S
reactant | D,L-dithiothreitol | 2.5 mmoles, 390 mg | SCC(O)C(O)CS | C4H10O2S2
reactant | sodium hydroxide | 84 mmoles, 1.22 N, 70 ml | [OH-].[Na+]
reactant | acetic acid | 95 mmoles, 1.06 N, 90 ml | C(C)(=O)O | C2H4O2
product | Hexahydro-6-[(2-mercapto-1-oxo-3-phenylpropyl) amino]-2,2-dimethyl-7-oxo-1H-azepine-1-acetic acid | 8.45 g | SC(C(=O)NC1CCCC(N(C1=O)CC(=O)O)(C)C)CC1=CC=CC=C1 | C19H26N2O4S
